US07888352B2
2-Chloro-7-methyl-4-morpholino-6-((4-N-methylsulfonylpiperazin-1-yl)methyl)thieno[3,2-d]pyrimidine (2.38 mM) was added to sodium thiomethoxide dissolved in 50 mL toluene under N2 and heated to reflux. The reaction was stirred at reflux 24 hours and there was very little product by LCMS. To this reaction mixture was added 50 mL DMF to dissolve the starting material and again heated to reflux for two hours. Complete product formation was confirmed by LCMS. The reaction was poured onto ice water, extracted with ether, dried over MgSO4, and concentrated in vacuo. This crude product was purified by flash chromatography (MeOH/DCM) giving 7-methyl-2-(methylthio)-4-morpholino-6-((4-N-methylsulfonylpiperazin-1-yl)methyl)thieno[3,2-d]pyrimidine. MS (Q1) 445 (M+)

reactant | 2-Chloro-7-methyl-4-morpholino-6-((4-N-methylsulfonylpiperazin-1-yl)methyl)thieno[3,2-d]pyrimidine | 2.38 mM | ClC=1N=C(C2=C(N1)C(=C(S2)CN2CCN(CC2)S(=O)(=O)C)C)N2CCOCC2 | C17H24ClN5O3S2
reactant | sodium thiomethoxide | C[S-].[Na+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 7-methyl-2-(methylthio)-4-morpholino-6-((4-N-methylsulfonylpiperazin-1-yl)methyl)thieno[3,2-d]pyrimidine | CC1=C(SC2=C1N=C(N=C2N2CCOCC2)SC)CN2CCN(CC2)S(=O)(=O)C | C18H27N5O3S3
